US04877793
A mixture of 2,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylic acid (1.27 g), triethylamine (0.6 ml) and dry tetrahydrofuran (120 ml) was stirred at ambient temperature for 30 minutes. The mixture was cooled to 0° and a solution of ethyl chloroformate (0.6 ml) in dry tetrahydrofuran (10 ml) was added during 3 minutes, before being allowed to warm to ambient temperature. Stirring was continued for 18 hours and a further quantity of ethyl chloroformate (0.3 ml) was added at ambient temperature. After stirring for a further 2 hours, the mixture was cooled to 5° and aqueous ammonia (specific gravity 0.880, 10 ml) was added. The mixture was stirred for 20 minutes and the solid was collected, washed with water (50 ml) and dried to give a second sample of crude 2,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide. The two samples of the carboxamide from (e) and (f) were combined and crystallised from industrial methylated spirit to give pure novel compound 2,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide, m.p. 328°-330°.

reactant | 2,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylic acid | 1.27 g | CC1=CC=2N(C=C(C(C2S1)=O)C(=O)O)C | C10H9NO3S
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.6 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 0.3 ml | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 10 ml | N | H3N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | CC1=CC=2N(C=C(C(C2S1)=O)C(=O)N)C | C10H10N2O2S
